US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 4-(2-hydroxyethyl)-morpholine, there is obtained 2-morpholino-ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 351 (1), 238 (10), 113 (100);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 4-(2-hydroxyethyl)-morpholine | OCCN1CCOCC1 | C6H13NO2
product | 2-morpholino-ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCN3CCOCC3)=N | C21H25N3O2
